US08497376B2
d) 5-Nitro-2-(2,2,6,6-tetramethyl-1,1-dioxo-1,2,3,6-tetrahydro-1λ6-thiopyran-4-yl)-pyridine
A solution of 5-nitro-2-(2,2,6,6-tetramethyl-3,6-dihydro-2H-thiopyran-4-yl)-pyridine (0.300 g, 1.08 mmol, as prepared in the previous step) in MeOH (15 mL) was cooled to 0° C. and treated with oxone (984 mg, 3.23 mmol based on KHSO5 content) as a solution in water (1.5 mL). The ice bath was removed, and the mixture was allowed to stir at RT for 1 h. The mixture was diluted with water and extracted with CH2Cl2 (2×). The combined organic layers were dried over MgSO4 and concentrated in vacuo. The residue was purified on a 25-g Sepra Si 50 SPE column (Isco system: Flow rate=20 mL/min; Eluent=5% EtOAc-hexane for 0-3 min, then 5-15% EtOAc-hexane for 5-30 min) to afford the title product (322 mg, 96%) as an off-white solid. Mass spectrum (ESI, m/z): Calcd. for C14H18N2O4S, 311.1 (M+H), found 311.0.

reactant | 5-nitro-2-(2,2,6,6-tetramethyl-3,6-dihydro-2H-thiopyran-4-yl)-pyridine | [N+](=O)([O-])C=1C=CC(=NC1)C=1CC(SC(C1)(C)C)(C)C | C14H18N2O2S
reactant | oxone | 3.23 mmol, 984 mg | OOS(=O)[O-].[K+]
solvent | MeOH | 15 mL | CO | CH4O
solvent | water | 1.5 mL | O | H2O
product | 5-Nitro-2-(2,2,6,6-tetramethyl-1,1-dioxo-1,2,3,6-tetrahydro-1λ6-thiopyran-4-yl)-pyridine | 322 mg, 96% | [N+](=O)([O-])C=1C=CC(=NC1)C=1CC(S(C(C1)(C)C)(=O)=O)(C)C | C14H18N2O4S
